US06248740B1
10.1 g of 3-amino-6-chloropyridazine was suspended in 120 ml of methanol; 23.5 g of methyl 4-chloroacetoacetate was added, followed by heating and refluxing for 20 hours. After cooling, the mixture was concentrated under reduced pressure; the residue was ajusted to pH 7 by the addition of an aqueous solution of sodium hydrogen carbonate, followed by extraction with ethyl ether; the extract was washed with saline and dried with magnesium sulfate. The dry product was concentrated under reduced pressure; the residue was subjected to silica gel column chromatography and eluted with hexane:ethyl acetate (1:4). The desired fraction was collected to yield 9.15 g of methyl 6-chloroimidazo[1,2-b]pyridazin-2-acetate was dissolved in 10 ml of N,N-dimethylformamide; while the solution was stirred under ice water cooling conditions, 3.5 g of a 60% sodium hydride dispersion in mineral oil was add little by little, followed by stirring at room temperature for 30 minutes. Under ice water cooling conditions, 6.3 ml of methyl iodide was added, followed by stirring at room temperature for 5 hours. Ice water was poured, followed by extraction with ethyl acetate; the extract was washed with saline and dried with magnesium sulfate. The dry product was concentrated under reduced pressure; the residue was subjected to silica gel column chromatography and eluted with hexane:ethyl acetate (1:1). The desired fraction was collected and concentrated to yield 14.1 g of the title compound.

reactant | 3-amino-6-chloropyridazine | 10.1 g | NC=1N=NC(=CC1)Cl | C4H4ClN3
reactant | methyl 4-chloroacetoacetate | 23.5 g | ClCC(CC(=O)OC)=O | C5H7ClO3
solvent | methanol | 120 ml | CO | CH4O
product | methyl 6-chloroimidazo[1,2-b]pyridazin-2-acetate | 9.15 g | ClC=1C=CC=2N(N1)C=C(N2)CC(=O)OC | C9H8ClN3O2
